Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with history of asthma and HTN, presented 
with increased cough and shortness of breath. She reports that 
this started on ___ with "the flu" where she felt body 
aches, fatigue, and high fevers to 103-105. The cough really 
started in on ___. Since ___, she has been using her 
albuterol inhaler more and more frquently, until this afternoon 
when she was using it every ___ min. Hx of asthma requiring 
overnight observation but never admission or intubation.  
Also of note, she was prescribed a "water pill" for swelling in 
her legs, but she has not been taking this because it made her 
feel dizzy. In atrius records, this is chlorthalidone 12.5 mg 
daily.  
In the ED initial vitals were: 97.7 98 159/92 22 96% RA.  
- Labs were normal. CXR showed bilateral lower lobe 
opacifications read as pneumonia most likely on the prelim rad 
read.  
- Patient was given albuterol nebs x 2, albuterol/ipratroprium 
nebs x 1, methylprednisolone 125 mg IV x 1, and ceftriaxone IV.  


 
Past Medical History:
- OSA confirmed on sleep study, but she has not started CPAP yet 
 
- gastric tumor, ? neuroendocrine in ___ s/p resection but no 
XRT or chemo  
- HTN  
- h/o hysterectomy  

 
Social History:
___
Family History:
mother with HTN, CAD in her grandparents, no history of asthma 
 
Physical Exam:
ADMISSION EXAM:
Vitals - 98.1, 146/84, 105, 20, 96% RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, anicteric sclera, patent nares, MMM, 
nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: wheezes and rales in bilateral lung fields, breathing 
comfortably without use of accessory muscles, poor air movement  

ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, no 
clubbing. trace bilateral lower extremity edema.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:

Vitals - Tm 98.3, Tc 97.8 BP 152/82, HR 82, RR 18, O2 95% RA. 
I/O: 100/- over last shift, 1.4/- last 24 hours 
GENERAL: Pleasant, overweight woman reclined in bed with 
occasional coughing fits
HEENT: Normalocephalic/atraumatic
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Mild wheezing present in bilateral lung fields with poor 
air movement. Patient still taking shallow breaths with frequent 
productive cough.
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
MSK: continued pain to palpation over R lower ribs  
EXTREMITIES: moving all extremities well, no cyanosis, no 
clubbing, no edema.   
PULSES: 2+ radial pulse
NEURO: A&O x 3, conversing appropriately, moving all extremities
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS:

___ 10:30PM BLOOD WBC-8.7 RBC-5.38 Hgb-15.0 Hct-44.5 MCV-83 
MCH-27.9 MCHC-33.7 RDW-13.1 Plt ___
___ 10:30PM BLOOD Neuts-64.4 ___ Monos-2.9 Eos-2.4 
Baso-0.9
___ 10:30PM BLOOD Glucose-137* UreaN-8 Creat-0.7 Na-138 
K-3.4 Cl-100 HCO3-22 AnGap-19
___ 10:38PM BLOOD Lactate-2.8*

MICROBIOLOGY:

Blood cx: pnd

___ 11:15 pm Influenza A/B by ___
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      Negative for Influenza B.

Time Taken Not Noted     Log-In Date/Time: ___ 5:09 am
      URINE

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 

IMAGING:

EKG ___: Sinus tachycardia. Non-specific ST-T wave changes. 
No previous tracing
available for comparison.

CXR (___): The lung volumes are low.  Within the limitations 
of technique, the cardiac, mediastinal and hilar contours are 
probably within normal limits.  There is no definite pleural 
effusion or pneumothorax.  Heterogeneous opacification involves 
each mid lung, greater on the right than left, with areas of 
entirely spared lung.  There is no clear finding to suggest an 
abnormal vasculature.   
IMPRESSION:  Findings suggesting pneumonia. 

CXR (___):
A AND LATERAL CHEST X-RAY OF ___
 
COMPARISON:  Radiograph of ___.
 
FINDINGS:  Lung volumes are relatively low, accentuating the 
cardiac
silhouette and bronchovascular structures.  With this limitation 
in mind,
heart is upper limits of normal in size.  Heterogeneous 
bilateral lung
opacities have partially resolved, with residual opacities most 
prominent in
the right upper and both mid lung regions. These residual lung 
findings may
reflect aspiration or infectious pneumonia.  There are no 
pleural effusions or
pneumothoraces.

Discharge labs:

___ 06:19AM BLOOD WBC-11.5* RBC-5.22 Hgb-14.5 Hct-44.0 
MCV-84 MCH-27.7 MCHC-32.9 RDW-13.4 Plt ___
___ 06:19AM BLOOD Glucose-152* UreaN-13 Creat-0.6 Na-135 
K-4.7 Cl-100 HCO3-22 AnGap-18
 
Brief Hospital Course:
Ms. ___ is a ___ F with history of asthma and HTN, presented 
with increased cough, fevers, shortness of breath, and myalgias 
with concern for PNA. 
 
# Asthma exacerbation: Patient received albuterol, azithro, and 
CTX with improvement in her symptoms. Flu swab and urine 
legionella negative. She was then switched to po levofloxacin. 
She was initially started on a 3-day burst of prednisone 40 mg 
but was increased to 60 mg prednisone on ___ as her symptoms 
were not improving quickly. She experienced the most difficulty 
with walking and deep breathing, as this caused her to cough and 
resultd in rib pain. During her hospital course, she was 
maintained on pen albuterol  q2hr and ipratroprium nebs q6h. She 
was also continued on home fluticasone-salmeterol, montelukast, 
and cetirizine. She was discharged to complete a 10-day course 
of prednisone. She was also provided a prescription for a 
nebulizer machine as her previous one broke.
  
# Possible pneumonia: Initial CXR was concerning for possible 
pna, but given bilateral findings, it would most likely be 
atypical bacterial or viral etiology. Flu and legionella 
negative. She was initially started on azithro and CTX and then 
switched to levofloxacin. Her diuretic was held as she had 
experienced dizziness at home. Her lactate increased from 2.8 to 
3.2 on ___, likely from albuterol. She was continued on 
levofloxacin for total 7 day course (Day 1 of abx = ___, last 
day ___. For pain control given rib pain with coughing, she 
was maintained on oxycodone, tramadol, and ibuprofen. For cough, 
she was given guaifenisen/benzonatate PRN.
 
# HTN: Patient reports SBP's in the 170's at home and therefore 
has a lower threshold for becoming symptomatic with lower BP's. 
She will need to ___ with PCP for tighter BP control over time. 
Her lisinopril dose was increased to 30mg daily (home dose) on 
___ and her chlorthalidone was held since the patient appeared 
euvolemic and became dizzy with it at home.  

# Insomnia: Chronic, related to shift work, mild OSA (Recently 
diagnosed on sleep study, CPAP not yet obtained). Steroid side 
effects may be a contributing factor. Patient did not feel 
trazodone worked and requested ativan.

Transitional issues:
-Will need to continue levofloxacin for a total 7 day course 
(last day ___
-Will need to continue prednisone for a total 10 day course 
(last day ___
-___ bp control as an outpatient
-Her chlorthalidone was stopped in house given concerns for 
dehydration/dizziness. This medication may be restarted as an 
outpatient with pcp ___.
-She is having trouble with insomnia, not responsive to 
trazodone, that may be exacerbated by steroids. Given lorazepam 
at discharge, further discussions needed about future 
management.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. ZyrTEC (cetirizine) 10 mg oral daily 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Montelukast 10 mg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, SOB 
7. Chlorthalidone 12.5 mg PO DAILY 

 
Discharge Medications:
1. Lisinopril 30 mg PO DAILY 
RX *lisinopril 30 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Montelukast 10 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. ZyrTEC (cetirizine) 10 mg oral daily 
6. PredniSONE 60 mg PO DAILY 
Please take until ___ 
RX *prednisone 20 mg 3 tablet(s) by mouth each morning Disp #*18 
Tablet Refills:*0
7. OxycoDONE (Immediate Release)  2.5-5.0 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*15 Tablet Refills:*0
8. Lorazepam 0.5 mg PO HS:PRN insomnia 
RX *lorazepam 0.5 mg 1 tablet by mouth at bedtime Disp #*10 
Tablet Refills:*0
9. Levofloxacin 750 mg PO DAILY Duration: 6 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
10. Acetaminophen 650 mg PO Q4H:PRN pain 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN SOB, wheeze 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inhaled Every 
2 hours Disp #*30 Vial Refills:*0
12. Ipratropium Bromide Neb 1 NEB IH Q6H asthma 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 1 inhaler inhaled 
every 6 hours Disp #*20 Each Refills:*0
13. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times daily 
Disp #*30 Capsule Refills:*0
14. Ibuprofen 400 mg PO Q8H:PRN pain 
15. Medical equipment
Please provide one nebulizer machine.
Duration: lifetime
ICD-9 code: asthma 493.12

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
 
# Asthma exacerbation
# Possible pneumonia

Secondary diagnoses:
# HTN
# Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted 
with an asthma exacerbation and possible pneumonia after 
contracting what was likely a viral illness. We treated you with 
inhalers, antibiotics, and cough medicine and your symptoms 
gradually improved. We have discharged you with nebulizer 
treatments, steroids, and antibiotics.

Take care and we wish you the best.

Sincerely,
___
 
Followup Instructions:
___